US04128560
In the same manner but replacing 6-methyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester with an equivalent amount of 6-ethyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester, described in Example 7, 1-ethyl-2-oxocyclohexaneacetic acid, identical to the product of the same name in Example 5, is obtained via the respective intermediates, 6-ethyl-α,α-diphenyl-1,4dioxaspiro[4.5]decane-6-propanol, νmaxCHCl3 3450 cm, nmr (CDCl3) δ 0.75 (t, J = 7, 3H), 3.85 (s, 4H), 7.2-7.6 (m, 10H) and 2-ethyl-2-(3,3-diphenylallyl)cyclohexanone, νmaxCHCl33 1740 cm-1.

reactant | 6-methyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester | COC(CCC1(C2(OCCO2)CCCC1)C)=O | C13H22O4
reactant | 6-ethyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester | COC(CCC1(C2(OCCO2)CCCC1)CC)=O | C14H24O4
reactant | 1-ethyl-2-oxocyclohexaneacetic acid | C(C)C1(C(CCCC1)=O)CC(=O)O | C10H16O3
product | 6-ethyl-α,α-diphenyl-1,4dioxaspiro[4.5]decane-6-propanol | C(C)C1(C2(OCCO2)CCCC1)CCC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H32O3
